### PR TITLE
[Merged by Bors] - feat: add Set.bi{Union,Inter}_{le,ge}

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From sphere-eversion

Co-authored-by: Patrick Massot <patrickmassot@free.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteLattice.lean [hunk 1]
```diff
@@ -1293,6 +1293,27 @@ theorem iInf_extend_top {e : ι → β} (he : Injective e) (f : ι → α) :
     ⨅ j, extend e f ⊤ j = iInf f :=
   @iSup_extend_bot αᵒᵈ _ _ _ _ he _
 
+section le
+
+variable {ι : Type*} [PartialOrder ι] (f : ι → α) (i : ι)
+
+theorem biSup_le_eq_sup : (⨆ j ≤ i, f j) = (⨆ j < i, f j) ⊔ f i := by
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice.lean:1300]: I just have one question: you're naming the Data.Set.Lattice lemmas `biUnion_le` etc. - the analogous name here would be `biSup_le`. Is that already taken? (Similarly for the other comments below.)

File: Mathlib/Order/CompleteLattice.lean [hunk 2]
```diff
@@ -1293,6 +1293,27 @@ theorem iInf_extend_top {e : ι → β} (he : Injective e) (f : ι → α) :
...
+  rw [iSup_split_single _ i]
+  simp only [le_refl, iSup_pos, iSup_and', lt_iff_le_and_ne, and_comm, sup_comm]
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice.lean:1302]: Does squeezing this simp make a performance difference? If not, can you unsqueeze this, please?

File: Mathlib/Order/CompleteLattice.lean [hunk 3]
```diff
@@ -1293,6 +1293,27 @@ theorem iInf_extend_top {e : ι → β} (he : Injective e) (f : ι → α) :
...
+
+theorem biInf_le_eq_inf : (⨅ j ≤ i, f j) = (⨅ j < i, f j) ⊓ f i :=
+  biSup_le_eq_sup (α := αᵒᵈ) f i
+
+theorem biSup_ge_eq_sup : (⨆ j ≥ i, f j) = f i ⊔ (⨆ j > i, f j) := by
+  rw [iSup_split_single _ i]
+  simp only [ge_iff_le, le_refl, iSup_pos, ne_comm, iSup_and', gt_iff_lt, lt_iff_le_and_ne,
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice.lean:1309]: Same about unsqueezing.

**Review by grunweg — APPROVED** [review]
Thanks for this clean-up! I have only minor comments.
maintainer delegate

File: Mathlib/Order/CompleteLattice.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Order/CompleteLattice.lean:1300]: No, but `biInf_le` is `⨅ j ∈ s, f j ≤ f i`.

File: Mathlib/Order/CompleteLattice.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Order/CompleteLattice.lean:1302]: For both there's a ~10x slowdown from unsqueezing, but still plenty fast in either case (~420 vs ~4200 heartbeats). I think I'll leave them squeezed, unless you feel strongly.

**Comment by riccardobrasca** [comment]
The squeezing seems like a borderline case, maybe you can add a comment? Anyway thanks!

bors d+
